US08207172B2
To a solution of 3-allyl-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine (300 mg, 0.52 mmol) and 4-methylmorpholine N-oxide monohydrate (133 mg, 1.14 mmol, 2.2 eq) in acetone (5 mL) and water (0.5 mL) was added a catalytic amount of osmium (VIII) tetraoxide (10 mg, 2.5 w % in t-BuOH). The reaction mixture was stirred at rt for 16 h. Sodium sulfite (1 g) was added to the stirred solution and the mixture was stirred for an additional 1 h. The mixture was passed through a pad of silicon gel and Celite mixture. The pad was washed with EtOAc (2×10 mL). The combined EtOAc layers were dried over sodium sulfate and then concentrated in vacuo. The residue was then purified by preparative-HPLC to give 3-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-3H pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl]propane-1,2-diol (25.5 mg, 8.9%) as a white solid. 1H NMR (CD3CN) δ 8.31 (s, 1H), 7.82 (d, J=2.6 Hz, 1H), 7.59 (s, 1H), 7.45 (dd, J=2.3, 8.9 Hz, 1H), 7.45 (m, 1H), 7.33 (t, 1H), 7.28 (d, J=10 Hz, 1H), 7.14 (d, J=9 Hz, 1H), 7.12 (m, 1H), 5.23 (s, 2H), 4.25 (m, 1H), 3.67 (m, 4H), 3.43 (t, 2H), 3.15 (t, 2H); LCMS RT=3.17 min, [M+H]+=552.0

reactant | 3-allyl-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | 0.52 mmol, 300 mg | C(C=C)N1N=CC=2C3=C(CCC12)C=1C(S3)=NC=NC1NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C27H21ClFN5OS
reactant | 4-methylmorpholine N-oxide monohydrate | 1.14 mmol, 133 mg, 2.2 eq | O.C[N+]1(CCOCC1)[O-]
reactant | Sodium sulfite | 1 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | acetone | 5 mL | CC(=O)C | C3H6O
solvent | water | 0.5 mL | O | H2O
catalyst | osmium (VIII) tetraoxide | 10 mg | [Os](=O)(=O)(=O)=O
product | 3-[6-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-4,5-dihydro-3H pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl]propane-1,2-diol | 25.5 mg, 8.9% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=C1C1=C(C=3C=NN(C3CC1)CC(CO)O)S2 | C27H23ClFN5O3S
